US06509329B1
Synthesis of N,N′-bis[[4-(3,4,5-Trimethoxyphenyl)pyridin-2-yl]methyl]piperazine
2-Chloromethyl-4-(3,4,5-trimethoxyphenyl)pyridine (195 mg) and piperazine (28 mg) were reacted in the same manner as in Example 1 to obtain the title compound.

reactant | 2-Chloromethyl-4-(3,4,5-trimethoxyphenyl)pyridine | 195 mg | ClCC1=NC=CC(=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
reactant | piperazine | 28 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[[4-(3,4,5-Trimethoxyphenyl)pyridin-2-yl]methyl]piperazine | COC=1C=C(C=C(C1OC)OC)C1=CC(=NC=C1)CN1CCN(CC1)CC1=NC=CC(=C1)C1=CC(=C(C(=C1)OC)OC)OC | C34H40N4O6
